US07262212B2
Tert-butyl 4-(4-chlorophenylamino)piperidine-1-carboxylate (2.67 g, 8.59 mmol) prepared in Reference Example 131 was dissolved in methylene chloride (20 ml), to which trifluoroacetic acid (15 ml) was added dropwise, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then dissolved in methylene chloride. This solution was neutralized with sodium hydroxide aqueous solution, and the mixture was extracted with methylene chloride. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to afford 4-(4-chlorophenylamino)piperidine as a pale yellow powder.

reactant | Tert-butyl 4-(4-chlorophenylamino)piperidine-1-carboxylate | 8.59 mmol, 2.67 g | ClC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H23ClN2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(4-chlorophenylamino)piperidine | ClC1=CC=C(C=C1)NC1CCNCC1 | C11H15ClN2
